US09212348B2
Synthesis of 1-(2-methyl-1-phenylpropan-2-yl)-2-(propan-2-ylidene)hydrazine
Acetone azine (1.50 g, 13.4 mmol) was dissolved in 10 mL of diethyl ether mixed with 32 mL (19.2 mmol) of 0.6 M benzylmagnesium bromide in tetrahydrofuran and stirred at 45° C. for 24 hours. The reaction was quenched with saturated aqueous ammonium chloride (100 ml), and the reaction solution was extracted with ethyl acetate. The resulting organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography using hexane-ethyl acetate (9:1 to 6:1) as the eluent to give 710 mg of the desired product as a pale yellow oil.

reactant | Acetone azine | 13.4 mmol, 1.50 g | CC(=NN=C(C)C)C | C6H12N2
reactant | benzylmagnesium bromide | 19.2 mmol, 0.6 M, 32 mL | C(C1=CC=CC=C1)[Mg]Br
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(2-methyl-1-phenylpropan-2-yl)-2-(propan-2-ylidene)hydrazine | 710 mg | CC(CC1=CC=CC=C1)(C)NN=C(C)C | C13H20N2
